US07507740B2
(iii) Production of 6-(2-furyl)-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-4-one
To a solution of ethyl 3-amino-5-(2-furyl)-1H-pyrrole-2-carboxylate (2.58 g) in ethanol (35 mL) was added formamidine acetate (1.83 g), and the mixture was heated under reflux for 18 hrs. After cooling to room temperature, the precipitated solid was collected by filtration, washed with ethanol, and dried under reduced pressure at 60° C. to give the title compound (2.26 g).

reactant | ethyl 3-amino-5-(2-furyl)-1H-pyrrole-2-carboxylate | 2.58 g | NC1=C(NC(=C1)C=1OC=CC1)C(=O)OCC | C11H12N2O3
reactant | formamidine acetate | 1.83 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 6-(2-furyl)-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-4-one | 2.26 g | O1C(=CC=C1)C1=CC=2N=CNC(C2N1)=O | C10H7N3O2
